US07482341B2
Step C]: N-(5-Ethoxymethyl-6-methyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-Ethoxymethyl-6-methyl-pyridin-2-ylamine (0.066 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.108 g) as a light yellow solid (0.115 g). MS (ESI−): 373.1 ([M−H]−)

reactant | 5-Ethoxymethyl-6-methyl-pyridin-2-ylamine | 0.066 g | C(C)OCC=1C=CC(=NC1C)N | C9H14N2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.108 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-(5-Ethoxymethyl-6-methyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide | C(C)OCC=1C=CC(=NC1C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C16H17F3N2O3S
